US06162824
3-Phenylthiophene (0.58 g, 3.62 mmol) was dissolved in 15 mL of a 1:1 solution of CHCl3 and AcOH followed by the portion-wise addition of 0.77 g (4.3 mmol) of NBS. The mixture was stirred at room temperature for 1 h, poured into 25 mL of H2O, and diluted with 30 mL of hexanes. The organic layer was washed successively with 2×10 mL of 10% aqueous KOH solution, 2×10 mL of H2O, and 2×10 mL of brine, and concentrated in vacuo to provide 0.68 g (78% yield) of 2-bromo-3-phenylthiophene as an oil.

reactant | 3-Phenylthiophene | 3.62 mmol, 0.58 g | C1(=CC=CC=C1)C1=CSC=C1 | C10H8S
reactant | NBS | 4.3 mmol, 0.77 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | H2O | 25 mL | O | H2O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | AcOH | CC(=O)O | C2H4O2
product | 2-bromo-3-phenylthiophene | 0.68 g, 78% yield | BrC=1SC=CC1C1=CC=CC=C1 | C10H7BrS
